US08222248B2
To a solution of 1-[2-(4-bromo-3,5-dimethyl-phenoxy)-ethyl]-pyrrolidine (176 mg) in THF (5 mL) was added n-BuLi (1.36 mL, 1.0 M solution in hexane) at −78° C. The mixture was stirred at −78° C. for 30 min, allowed to warm up to −40° C. for 5 min, and then cooled down to at −78° C. After 20 min. DMF (0.24 mL) was added. The mixture was stirred at −78° C. for 30 min and then allowed to warm up to room temperature for 1 h. The reaction was quenched with saturated NH4Cl aqueous solution and extracted with EtOAc. The organic extracts were washed with brine, dried over Na2SO4, and concentrated under reduced pressure to give 2,6-dimethyl-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde: MS (m/z) 248 (M+1).

reactant | 1-[2-(4-bromo-3,5-dimethyl-phenoxy)-ethyl]-pyrrolidine | 176 mg | BrC1=C(C=C(OCCN2CCCC2)C=C1C)C | C14H20BrNO
reactant | n-BuLi | 1.0 M, 1.36 mL | [Li]CCCC
reactant | DMF | 0.24 mL | CN(C)C=O | C3H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2,6-dimethyl-4-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde | CC1=C(C=O)C(=CC(=C1)OCCN1CCCC1)C | C15H21NO2
